US06440995B1
2-(7-Methoxy-2-p-tolyl-quinolin-4-ylamino)-ethanol hydrochloride
The title compound, m.p. 254-255° C. and MS: m/e=309.2 (M+H+), was prepared from 4-chloro-7-methoxy-2-p-tolyl-quinoline and ethanolamine.

reactant | 4-chloro-7-methoxy-2-p-tolyl-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)C | C17H14ClNO
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-(7-Methoxy-2-p-tolyl-quinolin-4-ylamino)-ethanol hydrochloride | Cl.COC1=CC=C2C(=CC(=NC2=C1)C1=CC=C(C=C1)C)NCCO | InChI=1S/C19H20N2O2.ClH/c1-13-3-5-14(6-4-13)17-12-18(20-9-10-22)16-8-7-15(23-2)11-19(16)21-17;/h3-8,11-12,22H,9-10H2,1-2H3,(H,20,21);1H
